US08034812B2
Production of 3-(4-cyanotetrahydro-2H-pyran-4-yl)-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]benzamide
Using N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (150 mg, 0.49 mmol), 3-(4-cyanotetrahydro-2H-pyran-4-yl)benzoic acid (120 mg, 0.51 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (95 mg, 0.50 mmol), 1-hydroxybenzotriazole (67 mg, 0.50 mmol), triethylamine (130 μL, 0.97 mmol) and N,N-dimethylformamide (8.0 mL) as starting materials and in the same manner as in Example 318, the title compound (150 mg, 58%) was obtained as a white powder.

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.49 mmol, 150 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | 3-(4-cyanotetrahydro-2H-pyran-4-yl)benzoic acid | 0.51 mmol, 120 mg | C(#N)C1(CCOCC1)C=1C=C(C(=O)O)C=CC1 | C13H13NO3
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.50 mmol, 95 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.50 mmol, 67 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.97 mmol, 130 μL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 8.0 mL | CN(C=O)C | C3H7NO
product | 3-(4-cyanotetrahydro-2H-pyran-4-yl)-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]benzamide | 150 mg, 58% | C(#N)C1(CCOCC1)C=1C=C(C(=O)NC2=CC(=CC=C2)OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C29H26N6O4
